US07476666B2
Step 4: 5-(4-Fluorobenzyl)-3-hydroxy-N-[2-(4-morpholinyl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide
The title compound was prepared as the trifluoroacetate salt from 3-benzyloxy-5-(4-fluorobenzyl)-N-[(2-morpholin-4-yl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide using a hydrogenation procedure similar to that found in Example 1, Step 5, except that the reaction time totaled 40 minutes. 1H NMR (400 MHz, CD3OD) δ 7.41-7.38 (m, 2H), 7.12-7.07 (m, 2H), 5.49 (s, 2H), 4.72 (br s, 2H), 4.28 (br s, 2H), 3.90 (br s, 6H), 3.75-3.71 (m, 6H); ES MS (M+1)=418.

reactant | trifluoroacetate | FC(C(=O)[O-])(F)F
reactant | 3-benzyloxy-5-(4-fluorobenzyl)-N-[(2-morpholin-4-yl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)CC2=CC=C(C=C2)F)=O)C(=O)NCCN2CCOCC2 | C27H30FN5O4
product | 5-(4-Fluorobenzyl)-3-hydroxy-N-[2-(4-morpholinyl)ethyl]-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxamide | FC1=CC=C(CN2C(C=3N(CC2)N=C(C3O)C(=O)NCCN3CCOCC3)=O)C=C1 | C20H24FN5O4
